US07696223B2
b) [(4-Hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 4-hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 376 (M+H)+.

reactant | 4-hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)C)C1=CC=CC=C1)O | C21H18N2O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(4-Hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carbonyl)-amino]-acetic acid | OC1=C(N=C(C2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C)C(=O)NCC(=O)O | C21H17N3O4
